US06403601B1
(d) Methyl 3-trifluoromethylsulfonyloxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylate
To a stirred cooled (0° C.) solution of methyl 3-hydroxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylate (2.0 g, 9.7 mmol) in DCM (50 mL) was added triethylamine (1.5 mL, 10.7 mmol) and trifluoromethanesulfonic anhydride (1.8 mL, 10.7 mmol). After stirring at room temperature for 30 min, saturated NaHCO3 was added and the mixture was extracted with DCM. The organic layer was dried (MgSO4), filtered and concentrated. The residue was purified by column chromatography (5% EtOAc/hexane) to give product as a colorless oil (2.16 g, 66%). 1H NMR (CDCl3) δ 7.57 (d, 1H), 7.13 (d, 1H), 3.90 (s, 3H), 3.06 (m, 2H), 2.85 (m, 2H), 1.81 (m, 4H).

reactant | methyl 3-hydroxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylate | 9.7 mmol, 2.0 g | OC=1C=C(C=2CCCCC2C1)C(=O)OC | C12H14O3
reactant | triethylamine | 10.7 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 10.7 mmol, 1.8 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-trifluoromethylsulfonyloxy-5,6,7,8-tetrahydro-1-naphthalenecarboxylate | 2.16 g, 66% | FC(S(=O)(=O)OC=1C=C(C=2CCCCC2C1)C(=O)OC)(F)F | C13H13F3O5S
